data/rdb19/train.csv
rxn,smiles,ea
1787,[C:15]([C:16](=[C:17]([H:24])[H:25])[C:18](=[O:19])[O:20][H:26])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:16]([C:15]([H:21])([H:22])[H:23])([C:17]([H:24])[H:25])[C:18](=[O:19])[O:20][H:26])([H:11])[H:12])([H:8])([H:9])[H:10],20.10621729999548
4171,[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10].[O:16][H:17]>>[C:1]([O:2][O:16][H:17])([H:8])([H:9])[H:10].[C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15],74.20022849348607
1629,[C:15]([C:16](=[C:17]([H:24])[H:25])[C:18](=[O:19])[O:20][H:26])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11].[H:12][C:17]([C:16]([C:15]([H:21])([H:22])[H:23])[C:18](=[O:19])[O:20][H:26])([H:24])[H:25],27.77602876047604
5340,[C:17]([C:18]([C:19]([H:20])[c:21]1[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]([H:35])[c:26]1[H:36])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2][c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:9])[H:10].[H:11][C:19]([C:18]([C:17]([H:27])([H:28])[H:29])([H:30])[H:31])([H:20])[c:21]1[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]([H:35])[c:26]1[H:36],30.497257422015537
386,[C:4]([C:5](=[O:6])[O:7][C:8](=[C:9]([H:14])[H:15])[H:13])([H:10])([H:11])[H:12].[O:1]([O:2])[H:3]>>[O:1][O:2][C:8]([O:7][C:5]([C:4]([H:10])([H:11])[H:12])=[O:6])([C:9]([H:3])([H:14])[H:15])[H:13],18.76733973552473
1635,[C:15]([C:16](=[C:17]([H:24])[H:25])[C:18](=[O:19])[O:20][H:26])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[O:19][C:18]([C:16]([C:15]([H:21])([H:22])[H:23])=[C:17]([H:24])[H:25])[O:20][H:26])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],24.16882814309793
3886,[C:13]([C:14]([C:15]([H:16])[O:17][C:18]([H:24])([H:25])[H:26])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][C:15]([C:14]([C:13]([H:19])([H:20])[H:21])([H:22])[H:23])([H:16])[O:17][C:18]([H:24])([H:25])[H:26],19.40873616747558
2878,[C:16]([C:17]([O:18][C:19](=[O:20])[C:21]([C:22]([H:32])([H:33])[H:34])([C:23]([H:24])[H:25])[H:31])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4]([O:5][C:23]([C:21]([C:19]([O:18][C:17]([C:16]([H:26])([H:27])[H:28])([H:29])[H:30])=[O:20])([C:22]([H:32])([H:33])[H:34])[H:31])([H:24])[H:25])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],27.549732895044144
475,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:23])([H:24])[H:25])([c:11]1[c:12]([H:26])[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]1[H:30])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1]([O:2][O:3][C:10]([H:23])([H:24])[H:25])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([c:11]1[c:12]([H:26])[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]1[H:30])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19],61.15990405424964
2103,[C:11]([C:12]([C:13]([H:14])[O:15][C:16]([H:22])([H:23])[H:24])([H:20])[H:21])([H:17])([H:18])[H:19].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[O:15][C:16]([H:22])([H:23])[H:24])[H:20])([H:17])([H:18])[H:19].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])[H:10])([H:8])[H:21])([H:6])[H:7],33.63406844303245
72,[C:12]([C:13](=[C:14]([H:19])[H:20])[C:15]([H:21])([H:22])[H:23])([H:16])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:7])[H:8].[H:6][C:14]([C:13]([C:12]([H:16])([H:17])[H:18])[C:15]([H:21])([H:22])[H:23])([H:19])[H:20],36.152638679835945
1905,[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[O:13][O:12][C:11]([H:14])([H:15])[H:16])([H:6])[H:7]>>[C:4](=[C:5]([H:9])[H:10])[H:8].[N:1]([C:2](=[O:3])[O:13][O:12][C:11]([H:14])([H:15])[H:16])([H:6])[H:7],13.22061391256284
2825,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21](=[O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:26])([H:27])[H:28]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[O:22][C:21]([C:20]([H:26])([H:27])[H:28])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:13])[H:14])([H:10])([H:11])[H:12],35.658047710719984
